US04962103
(2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-benzoyloxypyrrolidine (32.6 g) was dissolved in 64 ml of dry pyridine, and 28.02 g of p-toluenesulfonyl chloride was added thereto, followed by stirring at room temperature for 12 hours. The reaction mixture was diluted with water and extracted with a mixture of diethyl ether and dichloromethane (4:1). The extract was washed successively with brine, dilute hydrochloric acid, brine, a saturated sodium bicarbonate solution and brine, dried over anhydrous sodium sulfate and distilled to remove the solvent. Recrystallization of the residue from diethyl ether gave (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-p-toluenesulfonyloxymethyl-4-benzoyloxypyrrolidine.

reactant | (2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-benzoyloxypyrrolidine | 32.6 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)CO)C=C1 | C20H20N2O7
reactant | p-toluenesulfonyl chloride | 28.02 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 64 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | (2S,4R)-1-(p-nitrobenzyloxycarbonyl)-2-p-toluenesulfonyloxymethyl-4-benzoyloxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)COS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C27H26N2O9S
